US08871753B2
Step C: tert-Butyl {3-[2-(5-amino-2-morpholin-4-ylphenyl)ethyl]phenyl}carbamate
A solution of tert-butyl {3-[(2-morpholin-4-yl-5-nitrophenyl)ethynyl]phenyl}carbamate (0.33 g, 0.78 mmol) in methanol (20 mL) was degassed with nitrogen, treated with 10% palladium on carbon (wet Degussa type) (0.33 g, 100 wt %), degassed with nitrogen, and shaken under an atmosphere of hydrogen (50 psi) for 48 h. The reaction mixture was filtered over celite and the filtrate concentrated to give the desired product (0.29 g, 92%) which was used without further purification. LCMS for C23H32N3O3 (M+H)+: m/z=398.1.

reactant | tert-butyl {3-[(2-morpholin-4-yl-5-nitrophenyl)ethynyl]phenyl}carbamate | 0.78 mmol, 0.33 g | N1(CCOCC1)C1=C(C=C(C=C1)[N+](=O)[O-])C#CC=1C=C(C=CC1)NC(OC(C)(C)C)=O | C23H25N3O5
solvent | methanol | 20 mL | CO | CH4O
catalyst | palladium on carbon | 0.33 g | [Pd] | Pd
product | tert-Butyl {3-[2-(5-amino-2-morpholin-4-ylphenyl)ethyl]phenyl}carbamate | 0.29 g, 92% | NC=1C=CC(=C(C1)CCC=1C=C(C=CC1)NC(OC(C)(C)C)=O)N1CCOCC1 | C23H31N3O3
